US08058431B2
1) 6,7-Dimethoxy-1H-benzo(d)(1,3)oxazine-2,4-dione
10.0 g (50.7 mmol) 2-Amino-4,5-dimethoxy-benzoic acid were dissolved in 150 ml tetrahydrofuran. 6.52 g (22.0 mmol) triphosgene were added and the solution was boiled for 3 h. After equilibration to room temperature the reaction mixture was poured on a water/ice mixture. The residue was filtrated and rinsed with methanol.

reactant | 2-Amino-4,5-dimethoxy-benzoic acid | 50.7 mmol, 10.0 g | NC1=C(C(=O)O)C=C(C(=C1)OC)OC | C9H11NO4
reactant | triphosgene | 22.0 mmol, 6.52 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 6,7-Dimethoxy-1H-benzo(d)(1,3)oxazine-2,4-dione | COC1=CC2=C(NC(OC2=O)=O)C=C1OC | C10H9NO5
